US06602884B2
0.261 g of sodium borohydride was added, in several portions, to a mixture of 0.4 g of methyl (3RS,4RS)-4-[3-hydroxyimino-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-3-acetate in 25-cm3 of methanol cooled in the region of −2° C., with stirring and under an inert atmosphere. The reaction mixture was stirred in the region of 0° C. for 20 minutes and then 0.14 g of molybdenum trioxide wereadded. The reaction mixture was stirred in the region of 20° C. for 24 hours and then it was cooled in the vicinity of −2° C. and 0.261 g of sodium borohydride and 0.14 g of molybdenum trioxide were again added. The reaction mixture was stirred for 18 hours in the region of 20° C. and then filtered on celite. The filtrate was concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The evaporation residue was purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 3 cm), eluting with a successive mixture of cyclohexane-ethyl acetate (50/50 by volume) and then dichloromethane-methanol (90/10 by volume) and collecting 10-cm3 fractions. Fractions 26 to 41 were combined and then concentrated to dryness according to the conditions described above. 0.202 g of methyl (3RS,4RS)-4-[3-(R,S)-amino-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-3-acetate were obtained in the form of a colorless oil.

reactant | sodium borohydride | 0.261 g | [BH4-].[Na+]
reactant | methyl (3RS,4RS)-4-[3-hydroxyimino-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-3-acetate | 0.4 g | ON=C(CCC1C(CN(CC1)CCSC1=C(C=CC(=C1)F)F)CC(=O)OC)C1=C(C=NC2=CC=C(C=C12)OC)F | C29H32F3N3O4S
reactant | sodium borohydride | 0.261 g | [BH4-].[Na+]
solvent | methanol | 25-cm3 | CO | CH4O
catalyst | molybdenum trioxide | 0.14 g | [Mo](=O)(=O)=O
catalyst | molybdenum trioxide | 0.14 g | [Mo](=O)(=O)=O
product | methyl (3RS,4RS)-4-[3-(R,S)-amino-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-3-acetate | 0.202 g | NC(CCC1C(CN(CC1)CCSC1=C(C=CC(=C1)F)F)CC(=O)OC)C1=C(C=NC2=CC=C(C=C12)OC)F | C29H34F3N3O3S
